US08053581B2
Step 2: Preparation of 3-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-propan-1-one
A procedure similar to step 2 of Example 1 was used. 3-(4-fluoro-phenyl)-propionyl chloride prepared in the step 1 and methylphenyl ether were used as starting materials, and anhydrous AlCl3 was used as catalyst. The obtained product was a white solid in a yield of 100%, mp: 80-81 └. 1H-NMR (CDCl3, 400 MHz) δ: 3.05 (2H, t, J=7.84 Hz, ArH), 3.23 (2H, t, J=7.84 Hz, ArH), 3.87 (3H, s, OCH3), 6.92 (2H, d, J=8.68 Hz, ArH), 6.97 (2H, t, 3JFH=3JHH=8.72 Hz, ArH), 7.21 (2H, dd, 3JHH=8.68 Hz, 4JFH=5.60 Hz, ArH), 7.93 (2H, d, J=8.68 Hz, ArH); EI-MS m/e (%): 258.0 (M+, 27), 135.0 (100).

reactant | 3-(4-fluoro-phenyl)-propionyl chloride | FC1=CC=C(C=C1)CCC(=O)Cl | C9H8ClFO
reactant | methylphenyl ether | COC1=CC=CC=C1 | C7H8O
catalyst | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
product | 3-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-propan-1-one | yield of 100% | FC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)OC | C16H15FO2
